US06274536B1
3-(5-Chloro-3-fluoropyridin-2-yl)-2-methyl-3-oxopropionic Acid Tert-Butyl Ester
32.3 g of diisopropylamine are introduced into 200 ml of tetrahydrofuran and, with cooling with a CO2/acetone cooling bath, 200 ml of a 1.6M solution of n-butyllithium in hexane are added dropwise. 49.2 ml of propionic acid tert-butyl ester are then added dropwise at approximately −75° C. and the mixture is stirred at that temperature for 45 minutes. At approximately −75° C. a solution of 32.6 g of 3-fluoro-5-chloro-2-pyridinecarboxylic acid ethyl ester (Example P1) in 40 ml of tetrahydrofuran (THF) is then added dropwise and the mixture is stirred at that temperature for 1 hour, after which it is diluted with 250 ml of tert-butyl methyl ether. A mixture of 100 ml of water and 200 ml of glacial acetic acid is added, the phases are separated, the aqueous phase is extracted again, and the combined organic phases are washed with water. After drying over magnesium sulfate, filtration and concentration to dryness in vacuo are carried out. 51 g of the desired compound are obtained in the form of an oil (crude product).

reactant | diisopropylamine | 32.3 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | propionic acid tert-butyl ester | 49.2 ml | C(C)(C)(C)OC(CC)=O | C7H14O2
reactant | 3-fluoro-5-chloro-2-pyridinecarboxylic acid ethyl ester | 32.6 g | C(C)OC(=O)C1=NC=C(C=C1F)Cl | C8H7ClFNO2
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tert-butyl methyl ether | 250 ml | COC(C)(C)C | C5H12O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 3-(5-Chloro-3-fluoropyridin-2-yl)-2-methyl-3-oxopropionic Acid Tert-Butyl Ester | 51 g | C(C)(C)(C)OC(C(C(=O)C1=NC=C(C=C1F)Cl)C)=O | C13H15ClFNO3
